US07384936B2
N-[3-(1-oxido-1-piperidinyl)propoxy]-3-nitro-benzimidoyl-chloride dihydrate
To a solution of 1.0 g (3.0 mmol) of N-[3-(1-piperidinyl)propoxy]-3-nitro-benzimidoyl-chloride in 5 ml of chloroform a solution of 0.725 g (4.2 mmol) of m-chloroperbenzoic acid in 6 ml of chloroform is added. The reaction mixture is stirred for 6 hours at 25° C., then evaporated. To the residue 12 ml of 2 M potassium carbonate solution is added, and extracted 5 times with 20 ml of chloroform. The combined extracts are dried over magnesium sulfate, filtered and evaporated. The product is dissolved in ethanol; the solution is treated with charcoal then evaporated. The obtained material is triturated with ethylacetate, filtered and dried.

reactant | N-[3-(1-piperidinyl)propoxy]-3-nitro-benzimidoyl-chloride | 3.0 mmol, 1.0 g | N1(CCCCC1)CCCON=C(C1=CC(=CC=C1)[N+](=O)[O-])Cl | C15H20ClN3O3
reactant | m-chloroperbenzoic acid | 4.2 mmol, 0.725 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(1-oxido-1-piperidinyl)propoxy]-3-nitro-benzimidoyl-chloride dihydrate | O.O.[O-][N+]1(CCCCC1)CCCON=C(C1=CC(=CC=C1)[N+](=O)[O-])Cl | InChI=1S/C15H20ClN3O4.2H2O/c16-15(13-6-4-7-14(12-13)18(20)21)17-23-11-5-10-19(22)8-2-1-3-9-19;;/h4,6-7,12H,1-3,5,8-11H2;2*1H2
